US06251936B1
[3-Bromo-5-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-methoxy-phenylamino]-acetic Acid Methyl Ester
Methyl bromoacetate (0.285 mL, 3.01 mmol) was added to a stirred, room temperature suspension of 3-bromo-5-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-methoxy-phenylamine (0.260 g, 0.529 mmol) and potassium carbonate (0.411 g, 3.00 mmol) in DMF (1.7 mL). After two days, more methyl bromoacetate (0.135 mL, 1.5 mmol) and the reaction mixture was stirred for a day longer. The reaction mixture was added to water and the solid was filtered and washed with water. The solid was triturated with pet. ether and dried at 60° C. under vacumm to provide the title compound as a white solid (0.212 g, 71%): mp 194-198° C.: NMR (DMSO-d6); 8.17 (dd, J=8, 1 Hz, 1H), 7.63 (ddd, J=8, 6, 1 Hz, 1H), 7.53-7.45 (m, 2H), 6.77 (d, J=2 Hz, 1H), 6.54 (d, J=2 Hz, 1H), 6.10 (t, J=7 Hz, 1H), 3.97 (dd, J=7, 4 Hz, 2H), 3.83 (s, 3H), 3.52 (s, 3H),2.43 (s, 3H), 1.69 (s, 3H); MS (FAB+): 2 bromine isotope pattern 561, 563, 565; Anal. Calc. for C24H21Br2NO3S: C, 51.17; H, 3.76; N, 2.49. Found: C, 50.43; H, 3.63; N, 2.53.

reactant | Methyl bromoacetate | 3.01 mmol, 0.285 mL | BrCC(=O)OC | C3H5BrO2
reactant | 3-bromo-5-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-methoxy-phenylamine | 0.529 mmol, 0.260 g | BrC=1C(=C(C=C(C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)N)OC | C21H17Br2NOS
reactant | potassium carbonate | 3.00 mmol, 0.411 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 1.5 mmol, 0.135 mL | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | DMF | 1.7 mL | CN(C)C=O | C3H7NO
product | [3-Bromo-5-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-methoxy-phenylamino]-acetic Acid Methyl Ester | 0.212 g, 71% | COC(CNC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)Br)OC)=O | C24H21Br2NO3S
